US08497265B2
Step 2. 4-(2-(Piperidin-4-yloxy)Pyridin-3-yl)Morpholine Hydrochloride
To tert-butyl 4-((3-morpholinopyridin-2-yl)oxy)piperidine-1-carboxylate (3.2 g, 8.8 mmol) was added 4 M HCl in MeOH (100 mL). The solution was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure to give the title compound (2.2 g, 8.36 mmol, yield 95%). ESI-MS (M+1): 264 calc. for C14H21N3O2 263

reactant | tert-butyl 4-((3-morpholinopyridin-2-yl)oxy)piperidine-1-carboxylate | 8.8 mmol, 3.2 g | O1CCN(CC1)C=1C(=NC=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H29N3O4
reactant | HCl | 4 M | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
product | 4-(2-(Piperidin-4-yloxy)Pyridin-3-yl)Morpholine Hydrochloride | 8.36 mmol, 2.2 g, yield 95% | Cl.N1CCC(CC1)OC1=NC=CC=C1N1CCOCC1 | InChI=1S/C14H21N3O2.ClH/c1-2-13(17-8-10-18-11-9-17)14(16-5-1)19-12-3-6-15-7-4-12;/h1-2,5,12,15H,3-4,6-11H2;1H
